US06380387B1
A solution of 2-chloro-6-methylbenzoic acid (190 mg, 1.14 mmol) in dichloromethane (7 mL) containing DMF (4 drops) was treated with oxalyl chloride (0.42 mL, 4.8 mmol) and the mixture was stirred for 2 h. The mixture was concentrated, azeotroping with toluene to remove traces of oxalyl chloride and the residue was used directly in the next step. A mixture of the above prepared acid chloride, 4-(1,3-dimethyl-2,4-dioxo-6-(trifluoromethyl)-5-pyrimidinyl)-L-phenylalanine methyl ester hydrochloride salt (423 mg, 1.003 mmol) in dichloromethane (5 mL) was treated with DIPEA (0.625 mL, 4.46 mmol) and the resulting light brown solution was stirred for 3 days. The mixture was concentrated, diluted with ethyl acetate, washed with 1 N HCl and brine solution and was dried over magnesium sulfate. Filtration and evaporation afforded a residue, which was purified by silica gel chromatography using a Biotage column (40s) to give N-[(2-chloro-6-methylphenyl)carbonyl]-4-[1,3-dimethy-2,4-dioxo-6-(trifluoromethyl)-5-pyrimidinyl]-L-phenylalanine methyl ester as a white foam (179 mg, 33%). ES-HRMS m/e calcd for C25H23ClN3O5 (M+Na) 560.1171, found 560.1172.

reactant | 2-chloro-6-methylbenzoic acid | 1.14 mmol, 190 mg | ClC1=C(C(=O)O)C(=CC=C1)C | C8H7ClO2
reactant | oxalyl chloride | 4.8 mmol, 0.42 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(1,3-dimethyl-2,4-dioxo-6-(trifluoromethyl)-5-pyrimidinyl)-L-phenylalanine methyl ester hydrochloride salt | 1.003 mmol, 423 mg | Cl.COC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C(N(C1C(F)(F)F)C)=O)C)=O)=O
reactant | DIPEA | 4.46 mmol, 0.625 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
catalyst | DMF | 4 drops | CN(C)C=O | C3H7NO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-[(2-chloro-6-methylphenyl)carbonyl]-4-[1,3-dimethy-2,4-dioxo-6-(trifluoromethyl)-5-pyrimidinyl]-L-phenylalanine methyl ester | 179 mg, 33% | COC([C@@H](NC(=O)C1=C(C=CC=C1C)Cl)CC1=CC=C(C=C1)C=1C(N(C(N(C1C(F)(F)F)C)=O)C)=O)=O | C25H23ClF3N3O5
